US09079909B2
Step 1: 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine
To a solution of 4-chloro-3,5-diphenyl-1-vinyl-1H-pyrazolo[3,4-c]pyridazine (50 mg, 0.15 mmol) in acetone (5 mL) was added a 2% aqueous solution of potassium permanganate (71 mg, 0.45 mmol, 3.5 mL water) in one portion. The mixture was stirred at room temperature for 2 h, then another portion of potassium permanganate (12 mg, 0.075 mmol), was added and stirring continued for 15 min. The solids were filtered off and the filtrate was partitioned between water and CH2Cl2. The aqueous phase was re-extracted with CH2Cl2 and the combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The crude 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine (64 mg) was used directly in the following step.

reactant | 4-chloro-3,5-diphenyl-1-vinyl-1H-pyrazolo[3,4-c]pyridazine | 0.15 mmol, 50 mg | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)C=C | C19H13ClN4
reactant | potassium permanganate | 0.45 mmol, 3.5 mL, 71 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 0.075 mmol, 12 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
